US07511066B2
D. 3-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]pyridine-4-carboxylic Acid
A solution of methyl 3-[2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]pyridine-4-carboxylate (2.78 g, 5.3 mmol) in MeOH (100 mL) and THF (50 mL) was treated with 1 N NaOH (11 mL) and stirred at ambient temperature for 4 h. The reaction was quenched with glacial acetic acid (1 g) and concentrated to dryness. The residue was mixed with brine (50 mL) and extracted with 10% MeOH in CHCl3 (3×). The extracts were dried over MgSO4 and concentrated to 2.2 g (4.3 mmol, 81%) of a yellow solid.

reactant | methyl 3-[2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]pyridine-4-carboxylate | 5.3 mmol, 2.78 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC=2C=NC=CC2C(=O)OC)C=CC(=C1)N1CCCC1 | C28H36N4O6
reactant | NaOH | 1 N, 11 mL | [OH-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]pyridine-4-carboxylic Acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC=2C=NC=CC2C(=O)O)C=CC(=C1)N1CCCC1 | C27H34N4O6
